US09193693B2
Step 1. Methyl 3-(4-(methylsulfonyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate
Into a 100-mL round-bottom flask, was placed a solution of methyl 2-phenyl-3-(piperazin-1-yl)quinoxaline-6-carboxylate (150 mg, 0.43 mmol, 1.00 equiv), DIEA (3 mL) in DCM (15 mL). This was followed by the addition of methanesulfonyl chloride (0.5 mL) at 0° C. The resulting solution was stirred overnight at room temperature. The reaction was washed by sat. NaCl and concentrated under vacuum. This resulted in 0.17 g (93%) of methyl 3-(4-(methylsulfonyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate as a brown yellow oil.

reactant | methyl 2-phenyl-3-(piperazin-1-yl)quinoxaline-6-carboxylate | 0.43 mmol, 150 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCNCC1)C(=O)OC | C20H20N4O2
reactant | DIEA | 3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-(4-(methylsulfonyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | CS(=O)(=O)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H22N4O4S
